US05506228
The reaction of 392 mg of 1-chloro-1-[(4-methoxyphenyl) hydrazono]-2-propanone, 220 mg of thiophenol and 280 ul of triethylamine in 6 ml of ethanol as in Example 11 yielded 440 mg of 1-[(phenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone, mp 120°-123° C.

reactant | 1-chloro-1-[(4-methoxyphenyl) hydrazono]-2-propanone | 392 mg | ClC(C(C)=O)=NNC1=CC=C(C=C1)OC | C10H11ClN2O2
reactant | thiophenol | 220 mg | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 280 ul | C(C)N(CC)CC | C6H15N
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 1-[(phenyl)thio]-1-[(4-methoxyphenyl)hydrazono]-2-propanone | 440 mg | C1(=CC=CC=C1)SC(C(C)=O)=NNC1=CC=C(C=C1)OC | C16H16N2O2S
